US08912209B2
Intermediate 32: 3-(3-Hydroxy-propylsulfanyl)-dihydro-furan-2-one
To a solution of 3-mercapto-propan-1-ol (1685 μmol) in DMF (2 ml) were added DIEA (1.5 eq) and 3-bromo-dihydro-furan-2-one (1 eq). The reaction mixture was stirred at RT for 4 hours. The precipitate was filtered and the solvent was removed under reduced pressure.

reactant | 3-mercapto-propan-1-ol | 1685 μmol | SCCCO | C3H8OS
reactant | DIEA | 1.5 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-bromo-dihydro-furan-2-one | 1 eq | BrC1C(OCC1)=O | C4H5BrO2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 3-(3-Hydroxy-propylsulfanyl)-dihydro-furan-2-one | OCCCSC1C(OCC1)=O | C7H12O3S
